Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
fibroids 
 
Major Surgical or Invasive Procedure:
total abdominal hysterectomy
bilateral salpingectomy
cystoscopy

 
History of Present Illness:
History of Present Illness:  ___ is a very pleasant 
___ old G2 P2, C-section x 2 with a past medical history 
significant for multiple sclerosis, anxiety, depression, optic 
neuritis and ulcerative colitis.  

I've followed ___ for some time now for infrequent irregular 
bleeding in post menopause.  Prior recommonedation has been to 
proceed with endometrial sampling and possible hysterectomy 
which she declined.  She presents in ___ after recent bleeding 
episode. 

She has a history of C-sections x 2.  She believes she became 
postmenopausal in ___.  She had one bleeding episode at that 
time.  She was also tested with an FSH that was elevated by her 
report.  An endometrial biopsy attempted in ___ was 
insufficient.  She has had, by her report three episodes of 
bleeding at this point.  

She had an ultrasound performed in ___ that notes a small 
fibroid uterus measuring 9.5 x 5.0 x 5.1, the largest fibroid 
measuring 2.2 cm.  Normal ovaries bilaterally.  

A subsequent pelvic ultrasound was performed in ___ in 
conjunction with this postmenopausal bleeding episode which per 
her report was the second episode.  At that time, her uterus had 
increased in size measuring 10.6 x 6.9 x 4.8 cm with now a 
fibroid with submucosal extent measuring 5.1 x 5.7 x 6.3 cm. 
Ovaries were not visualized at this time.  This ultrasound 
prompted the first attempt that was unsuccessful at endometrial 
biopsy.  

She thereafter underwent a third ultrasound in ___.  
At this point, she was experiencing pelvic pain and this was at 
the height of her pelvic pain.  The uterus now measures 14.8 x 
9.1 x 9.4 cm with multiple masses consistent with fibroids.  The 
largest fibroid located in the body of the uterus measuring 7 x
6.8 x 6.7 cm.  The endometrium was distorted and could not be 
assessed.  There was nonvisualization of the ovaries again.  An 
attempt at endometrial biopsy by Dr. ___ at this time was 
unsuccessful, perhaps secondary to fibroids again.  

An MRI was obtained.  The MRI notes a uterus measuring 12.1 x 
8.6 x 8 cm with a 6.8 x 6.7 x 7.6 fibroid that is in the 
myometrium deviating the endometrium still left.  It is 
predominantly intramural with some submucosal component 
possible.  There is no evidence of necrosis on the MRI.  The 
endometrium was visualized as thin and smooth.  Ovaries are well 
visualized and normal in size and appearance.  There was no free 
fluid, no pelvic or inguinal lymphadenopathy.  

She had a recent bleeding episode and two US were performed 
indicating slight growth in her dominant fibroid.

She was scheduled for surgery previously but cancelled.

She has no other gyn complaints.
 
Past Medical History:
Gynecologic History:  As per HPI.  She has normal Pap smear in 
___.  Normal mammogram in ___ and normal 
colonoscopy in ___, although her past medical history in 
OMR lists ulcerative colitis.  She is doing well and has no 
current symptoms.  She is sexually active and denies 
dyspareunia. She uses condoms for birth control.  She had a 
history of syphilis in the ___ that was treated.

Past Medical History:  Multiple sclerosis and ulcerative 
colitis.

Past Surgical History:  In ___, she had surgery for carpal 
tunnel, and she has had multiple colonoscopies.
 
Social History:
___
Family History:
Family History:  Her grandmother had breast cancer in her ___, 
and her sister at the age of ___ and is BRCA negative.
 
Physical Exam:
Pre-Admission Physical Exam: 
Vital Signs sheet entries for ___: 
BP: 120/78. Heart Rate: 68. Weight: 149.5 (With Clothes). BMI:
39.2. Temperature: 98.1. Resp. Rate: 16. Pain Score: 0.
General: well appearing female in no apparent distress, alert 
and
oriented
HEENT: normocephalic, atraumatic, anicteric sclera
Neck: supple, FROM, no thyromegaly or nodules
Lymphatic: no palpable neck lymphadenopathy
Back: no CVA tenderness
Lungs: clear to auscultation bilaterally, good inspiratory
effort, no wheezing/rales/rhonchi
CV: regular rate and rhythm, no murmurs/rubs/gallops
Abd: soft, +bowel sounds, non-tender, non-distended, no R/G
Extremities: no clubbing/cyanosis/edema
Pelvic:
  Skin- grossly normal external female genitalia
  SSE- nl cervix at ML, no unusual blding/lesions/discharge
       normal vaginal vault
  BME- large fibroid uterus, no adnexal masses or  tenderness
  Pelvic MS ___- no obturator or levator muscle tenderness
Rectovaginal Exam: deferred

Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP

 
Pertinent Results:
___ 12:20PM   WBC-6.1 RBC-4.29 HGB-13.0 HCT-39.5 MCV-92 
MCH-30.3 MCHC-32.9 RDW-13.2 RDWSD-44.6
___ 12:20PM   PLT COUNT-219
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology 
service after undergoing a total abdominal hysterectomy, 
bilateral salpingectomy, and cystoscopy for symptomatic 
fibroids. Immediately post-op, her pain was controlled with an 
Epidural managed by acute pain service. Please see the operative 
report for full details.

Her post-operative course was complicated by urinary retention. 
On post-operative day 1, her urine output was adequate so her 
foley was removed, however, she did not void spontaneously. She 
was bladder scanned which showed 730cc of urine. Her foley was 
replaced and 700cc of urine was drained.  On post-operative day 
2, her Foley was removed with a voiding trial, the results of 
which are as follows:
1. Instilled 300 mL, voided 0 mL with 470 mL residual.

Her Foley catheter was replaced and 625cc of urine was drained. 
Her diet was advanced without difficulty and she was 
transitioned to PO oxycodone/ibuprofen/acetaminophen.

By post-operative day 2, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was instructed in the care of the foley. She 
was then discharged home in stable condition with instructions 
to schedule outpatient follow-up for a trial of void and 
possible catheter removal.  

 
Medications on Admission:
diclofenac epolamine [Flector]
1.3 % patch 12 hour (transdermal)

mesalamine [Asacol HD]
800 mg tablet,delayed release (___) (oral)

natalizumab [Tysabri]
300 mg/15 mL Solution

acetaminophen
325 mg tablet (oral)

ascorbic acid (vitamin C) [C-500]
500 mg tablet (oral)

calcium carb-mag oxide-vit D3 [Calcium Magnesium + D]
400 mg-167 mg-133 unit tablet (oral)

cholecalciferol (vitamin D3)
5,000 unit tablet (oral)

cranberry conc-ascorbic acid [Cranberry Concentrate]
140 mg-100 mg capsule (oral)

flaxseed oil
1,000 mg capsule (oral)

folic acid
0.4 mg Tablet

glucosamine sulfate [Glucosamine]
500 mg tablet (oral)

L.acidoph,saliva-B.bif-S.therm [Acidophilus Probiotic Blend]
175 mg capsule (oral)

omega-3-dha-epa-dpa-fish oil [Omega-3 ___]
1,050 mg (300 mg-675 mg-75 mg)-1,200 mg capsule (oral)
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*40 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*40 Capsule Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Mild 
take with food 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*40 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
may cause drowsiness, take with stool softener 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
5.  Mesalamine 800 mg PO TID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
symptomatic fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___ ,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___